US06838465B2
1-(6,7-Dimethoxy-1,2,3,4-tetrahydroisoquinolin-2-yl)-3-methyl-2-bromobutan-1-one
Racemic body α-bromoisovaleryl chloride (327 mg, 1.64 mmol) on the market and 4-(N,N-dimethylamino)pyridine (about 10 mg) were added to a pyridine (8 ml) suspension of 6,7-dimethoxy-1,2,3,4-tetrahydroisoquinoline hydrochloride (472 mg, 2.05 mmol), and the mixture was stirred at room temperature for 3 hours. The reaction solution was diluted with chloroform (50 ml), washed with 1 N hydrochloric acid (50 ml) and a 1 N aqueous sodium hydroxide solution (50 ml), dried over anhydrous magnesium sulfate, concentrated under reduced pressure, and used, without isolating and purifying the obtained gummy substance, in the reactions in Examples 27 and 28.

reactant | α-bromoisovaleryl chloride | 1.64 mmol, 327 mg | BrC(C(=O)Cl)C(C)C | C5H8BrClO
reactant | pyridine | 8 ml | N1=CC=CC=C1 | C5H5N
reactant | 6,7-dimethoxy-1,2,3,4-tetrahydroisoquinoline hydrochloride | 2.05 mmol, 472 mg | Cl.COC=1C=C2CCNCC2=CC1OC
catalyst | 4-(N,N-dimethylamino)pyridine | about 10 mg | CN(C)C1=CC=NC=C1 | C7H10N2
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
product | 1-(6,7-Dimethoxy-1,2,3,4-tetrahydroisoquinolin-2-yl)-3-methyl-2-bromobutan-1-one | COC=1C=C2CCN(CC2=CC1OC)C(C(C(C)C)Br)=O | C16H22BrNO3
